US04888381
25% isophthalic acid
Using the procedure described for copolymer 5, 300 g of copolymer was first allowed to react with 2 ml of ethylene glycol, then with 3.66 g of succinic anhydride.

reactant | succinic anhydride | 3.66 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | ethylene glycol | 2 ml | C(CO)O | C2H6O2
product | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
